US07777038B2
1.0 g of 2-chloro-3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propionic acid, 0.45 g of thiourea, and 0.4 g of sodium acetate were added to 20 ml of methoxy ethanol, and the mixture was stirred at 110° C. for 7.5 hours. The reaction mixture was concentrated under reduced pressure, an aqueous sodium hydrogencarbonate solution was added to the residue to precipitate a solid, and the precipitated solid was collected by filtration. The filtrate was extracted with dichloromethane, and the extract was dried over anhydrous sodium sulfate and concentrated. The concentrated residue and the solid collected by filtration were combined and added to a mixed solvent of 10% hydrochloric acid and ethanol, followed by heating and refluxing overnight. The solvent was distilled off under reduced pressure, and the residue was recrystallized from an aqueous DMF, giving 0.41 g of 5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)thiazolidine-2,4-dione as a yellow powder.

reactant | 2-chloro-3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propionic acid | 1.0 g | ClC(C(=O)O)CC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C14H14ClNO4
reactant | thiourea | 0.45 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.4 g | C(C)(=O)[O-].[Na+]
solvent | methoxy ethanol | 20 ml | COC(C)O | C3H8O2
product | 5-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 0.41 g | COC=1C=CC(=C2C=CC(N(C12)C)=O)CC1C(NC(S1)=O)=O | C15H14N2O4S
